US06057451
tert-Butyl N-{4-{4-{2-{{(dibutylamino)carbonyl}amino}ethyl}phenyl}-2-thiazolyl}carbamate (1d: R1D =tert-butoxycarbonylamino, R2D =H and R3D =dibutylamino)
A solution of N-{2-{4-(2-amino-4-thiazolyl)phenyl}ethyl}-N',N'-dibutylurea (293 mg, 0.78 mmol), prepared as in Example 3(b), DIPEA (101 mg, 0.78 mmol), DMAP (9.5 mg, 0.08 mmol) and di-tert-butyl dicarbonate (171 mg, 0.78 mmol) in DMF (2 mL) was stirred at room temperature for 24 h. The reaction mixture was diluted with EtOAc (30 mL) and washed with aqueous saturated NaHCO3 (2×30 mL). The aqueous layers were back extracted with EtOAc (30 mL). The combined organic extracts were dried (MgSO4) then concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, EtOAc:Hexane, 1:1) to give the title compound (183 mg, 49% yield): M.p. 70-75°; 1H NMR (DMSO-d6) δ 11.53 (broad s, 1H), 7.77 (d, J=8.1 Hz, 2H), 7.48 (s, 1H), 7.22 (d, J=8.1 Hz, 2H), 6.12 (broad t, J=5.5 Hz, 1H), 3.23 (broad q, J=6.7 Hz, 2H), 3.09 (t, J=7.5 Hz, 4H), 2.72 (t, J=7.2 Hz, 2H), 1.49 (s, 9H), 1.37 (m, 4H), 1.21 (m, 4H), 0.85 (t, J=7.3 Hz, 6H); MS (FAB) m/z 475 (MH)+; Anal. calcd for C25H38N4O3S: C, 63.26; H, 8.07; N, 11.80; S, 6.41. Found: C, 62.95; H, 8.14; N, 11.80; S, 6.41.

reactant | N-{2-{4-(2-amino-4-thiazolyl)phenyl}ethyl}-N',N'-dibutylurea | 0.78 mmol, 293 mg | NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(=O)N(CCCC)CCCC | C20H30N4OS
reactant | DIPEA | 0.78 mmol, 101 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 0.78 mmol, 171 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.08 mmol, 9.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl N-{4-{4-{2-{{(dibutylamino)carbonyl}amino}ethyl}phenyl}-2-thiazolyl}carbamate | 183 mg, 49% yield | C(CCC)N(C(=O)NCCC1=CC=C(C=C1)C=1N=C(SC1)NC(OC(C)(C)C)=O)CCCC | C25H38N4O3S
